US08026370B2
5-(chloromethyl)-2-phenylpyrimidine
(2-Phenylpyrimidin-5-yl)methanol (1.75 g) synthesized in Reference Example 30 was dissolved in dichloromethane (20 mL) and, after ice-cooling, thionyl chloride (1.45 g) was added thereto, and the mixture was stirred at 0° C. for 2 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with dichloromethane. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (elution solvent; hexane:ethyl acetate=2:1) to give the title compound (1.83 g) as a white solid.

reactant | (2-Phenylpyrimidin-5-yl)methanol | 1.75 g | C1(=CC=CC=C1)C1=NC=C(C=N1)CO | C11H10N2O
reactant | thionyl chloride | 1.45 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-(chloromethyl)-2-phenylpyrimidine | 1.83 g | ClCC=1C=NC(=NC1)C1=CC=CC=C1 | C11H9ClN2
